US05952362
1,2-Dimethyl-3,5-dinitrobenzene (2.5 g, prepared as described in the above scheme) was dissolved in glacial acetic acid (25 mL, from Mallinckrodt) under N2 and heated to reflux. The heat source was removed and iron (2.13 g) was added all at once. After the initial vigorous reaction, the mixture was heated at reflux for 10 min and then cooled to room temperature. The reaction mixture was filtered through a celite pad and washed with ethyl acetate. The filtrate was evaporated under reduced pressure. The residue was dissolved in ethyl acetate and refiltered through a celite pad and then washed with saturated sodium bicarbonate solution and half-saturated sodium chloride solution. After drying over magnesium sulfate and evaporation of the solvent, 2,3-dimethyl-5-nitro-phenylamine (1.41 g) was obtained.

reactant | 1,2-Dimethyl-3,5-dinitrobenzene | CC1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])C | C8H8N2O4
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 2,3-dimethyl-5-nitro-phenylamine | 1.41 g | CC1=C(C=C(C=C1C)[N+](=O)[O-])N | C8H10N2O2
